US05187055
(a) Synthesis of Dodecyl 4-Methylthiophenyl Ether
A mixture of 50.9 g of 4-methylthiophenol, 125 g of potassium carbonate and 300 ml of N,N-dimethylformamide was heated and stirred in a nitrogen steam on a steam bath. And 90.5 g of 1-bromododecane was dropwise added to the mixture over a 1-hour period. After the conclusion of the addition, the reaction mixture was stirred for 3 hours and to the solution ethyl acetate was added, and filtration and washing were conducted. The ethyl acetate solution was concentrated and to the residue methanol was added to deposit 100 g of docecyl 4-methylthiophenyl ether white crystal.

reactant | 4-methylthiophenol | 50.9 g | CC1=CC=C(C=C1)S | C7H8S
reactant | potassium carbonate | 125 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
reactant | 1-bromododecane | 90.5 g | BrCCCCCCCCCCCC | C12H25Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Dodecyl 4-Methylthiophenyl Ether | CSC1=CC=C(C=C1)OCCCCCCCCCCCC | C19H32OS
